Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
NSAIDS (Non-Steroidal Anti-Inflammatory Drug) / Reglan
 
Attending: ___.
 
Chief Complaint:
decreased fetal movement
contractions

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a lovely ___ G2P1 at ___ presenting with
DFM and tightening for the past few hours. She states she has
felt a little nauseated over the past few days but has not been
throwing up. Has had decreased appetite but does feel like she 
is
drinking good amount of water. No urinary symptoms. No diarrhea.
No VB, LOF, abnormal discharge. Reports tightening is
uncomfortable and occurring about every 10 minutes.

 
Past Medical History:
PNC: 
- ___ ___ by LMP c/w ___ trimester U/S
- Labs Rh pos/Abs neg/Rub I/RPR NR/HBsAg neg/HIV neg/GBS PND
- Screening - Aneuploidy screening: abnl Panorama - ___ 46XY
- FFS - wnl
- GLT - screened with FBS fasting and 1hr PP x 1wk - wnl
- U/S -  ___: ant placenta, nl AF, 2143g (60%), cephalic
- Issues
 - She is known ___ carrier, but couple have elected not to
have FOB tested
 - h/o gastric bypass - getting growth scans q4wk

OB Hx:
- G1 SVD - IOL 37wk for persistent DFM, 2970g
- G2 current

GYN Hx - due for repeat pap postpartum. No known h/o fibroids,
STIs.

PMH: 
- h/o recurrent c. diff
- h/o anemia requiring IV iron

Past Surgical Hx:
- gastric bypass (cannot have NSAIDs)
- cholecystectomy

 
Physical Exam:
Admission Physical Exam:
___ ___: 94
___ 17:40BP: 108/69 (79)
___ ___: 93
___ 17:48Temp.: 98.3F
___ ___: 94
Gen: NAD
CV: RRR
Lungs: nl respiratory effort
Abd: soft, gravid, NT
SVE: LCP
Spec: visually closed, no blood in vault or abnormal discharge,
no pooling

TAUS: vtx, BPP ___

FHT: 150/mod/+accels/-decels
toco: q7m
.
.
.
Discharge Physical Exam 
VS: 98.2, 94/57, 87, 18, O2 95%
Gen: NAD, appears comfortable
Resp: nl respiratory effort
Abd: soft, gravid, nontender
Ext: nontender w/o edema

Date/Time: ___ at ___
FHT 130/mod var/+accels/no decels -> reactive
Toco q ___ min
 
Pertinent Results:
___ 01:10PM BLOOD WBC-14.0* RBC-3.72* Hgb-10.6* Hct-32.9* 
MCV-88 MCH-28.5 MCHC-32.2 RDW-14.0 RDWSD-45.1 Plt ___
___ 06:38PM BLOOD WBC-12.2* RBC-3.76* Hgb-11.0* Hct-32.3* 
MCV-86 MCH-29.3 MCHC-34.1 RDW-13.6 RDWSD-42.2 Plt ___
___ 01:10PM BLOOD Neuts-68.2 ___ Monos-5.7 Eos-0.5* 
Baso-0.4 Im ___ AbsNeut-9.57* AbsLymp-3.45 AbsMono-0.80 
AbsEos-0.07 AbsBaso-0.06
___ 06:38PM BLOOD Neuts-70.7 ___ Monos-5.2 Eos-0.2* 
Baso-0.2 Im ___ AbsNeut-8.61* AbsLymp-2.82 AbsMono-0.63 
AbsEos-0.03* AbsBaso-0.03
___ 01:10PM BLOOD Plt ___
___ 06:38PM BLOOD Plt ___
___ 01:10PM BLOOD ALT-10 AST-15
___ 12:15PM URINE Color-Straw Appear-Clear Sp ___
___ 06:53PM URINE Color-Straw Appear-Clear Sp ___
___ 12:15PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.5 Leuks-TR*
___ 06:53PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 12:15PM URINE RBC-1 WBC-<1 Bacteri-NONE Yeast-NONE 
Epi-4 TransE-<1
___ 06:50PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG
___ 06:08PM OTHER BODY FLUID CT-NEG NG-NEG.

 
 
___ 6:53 pm URINE      Source: ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

 
 
___ 6:08 pm ANORECTAL/VAGINAL      Source: 
Anorectal/Vaginal. 

                            **FINAL REPORT ___

   R/O GROUP B BETA STREP (Final ___: 
      Negative for Group B beta streptococci. 

___ 6:08 pm SWAB     Site: VAGINA      Source: Vaginal. 

                            **FINAL REPORT ___

   SMEAR FOR BACTERIAL VAGINOSIS (Final ___: 
      GRAM STAIN NEGATIVE FOR BACTERIAL VAGINOSIS. 

   YEAST VAGINITIS CULTURE (Final ___:    NEGATIVE FOR 
YEAST. 

 
 
___ 1:10 pm BLOOD CULTURE

   Blood Culture, Routine (Pending): 

 
Brief Hospital Course:
On ___, Ms. ___ was admitted at ___ with decrased 
fetal movement and abdominal tightening. 

On presentation she had a reactive NST and BPP ___ on 
ultrasound. For her preterm contractions she had a FFN collected 
which was unable to be processed. She was noted to make cervical 
change from closed to 1cm. She was therefore started on a course 
of betamethasone for fetal lung maturity. Tocolytics were 
deferred given gestational age. She was monitored on L&D and 
made slow cervical change to 1.5cm/50% effaced/posterior with no 
further changes. She was then monitored on the antepartum 
service. She continued to have intermittently painful 
contractions and received IV dilaudid with subsequent relief. 
She was seen by the NICU given prematurity. 

On HD#3, she reported abdominal tenderness that was 
nonreproducible on exam. Labs were drawn which showed normal 
white count with no bandemia, normal LFTs and negative 
urinalysis. She had blood cultures drawn which had no growth to 
date. 

By hospital day #4 patient was stable with unchanged cervical 
exam and reassuring fetal testing. She was therefore discharged 
home with close outpatient follow up scheduled. 
 
Medications on Admission:
PNV, B12, calcium, vitamin D3
 
Discharge Medications:
PNV, B12, calcium, vitamin D3
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pre-term contractions 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to the hospital for preterm contractions. You 
were given betamethasone, a steroid which helps the baby's lungs 
among other benefits. Your contractions and cervical exam 
remained stable and you are now safe to be discharged home.  
 Please call the office for:  
 - Worsening, painful or regular contractions  
 - Vaginal bleeding  
 - Leakage of water or concern that your water broke  
 - Abdominal pain  
 - Nausea/vomiting  
 - Fever, chills  
 - Decreased fetal movement  
 - Other concerns  

 
Followup Instructions:
___